US07566728B2
(RS)-1-[1-(acenaphthen-1-yl)piperidin-4-yl]-3-[2-(4-methylpiperazin-1-yl)-2-oxoethyl]-1,3-dihydro-2H-benzoimidazol-2-one dihydrochloride
(RS)-2-{3-[1-(Acenaphthen-1-yl)piperidin-4-yl]-2,3-dihydro-2-oxo-benzoimidazol-1-yl}acetic acid (0.85 g, 2 mmol) was dissolved in DMF (10 ml). 1-Methylpiperazine (0.2 g, 2 mmol), WSC.HCl (0.46 g, 2.4 mmol), HOBt (0.37 g, 2.4 mmol) and triethylamine (0.53 ml, 3.8 mmol) were added and the mixture was stirred at room temperature for 8 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated aqueous ammonium chloride solution, dried over magnesium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) and hydrochloric acid/ethanol was added to give the title compound (0.73 g) as a yellow solid.

reactant | (RS)-2-{3-[1-(Acenaphthen-1-yl)piperidin-4-yl]-2,3-dihydro-2-oxo-benzoimidazol-1-yl}acetic acid | 2 mmol, 0.85 g | C1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)N2C(N(C3=C2C=CC=C3)CC(=O)O)=O | C26H25N3O3
reactant | 1-Methylpiperazine | 2 mmol, 0.2 g | CN1CCNCC1 | C5H12N2
reactant | WSC.HCl | 2.4 mmol, 0.46 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 2.4 mmol, 0.37 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 3.8 mmol, 0.53 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (RS)-1-[1-(acenaphthen-1-yl)piperidin-4-yl]-3-[2-(4-methylpiperazin-1-yl)-2-oxoethyl]-1,3-dihydro-2H-benzoimidazol-2-one dihydrochloride | 0.73 g | Cl.Cl.C1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)N2C(N(C3=C2C=CC=C3)CC(=O)N3CCN(CC3)C)=O | InChI=1S/C31H35N5O2.2ClH/c1-32-16-18-34(19-17-32)29(37)21-35-26-10-2-3-11-27(26)36(31(35)38)24-12-14-33(15-13-24)28-20-23-8-4-6-22-7-5-9-25(28)30(22)23;;/h2-11,24,28H,12-21H2,1H3;2*1H
